US08183251B2
b) 2-(Trifluoromethyl)pyrimidin-5-ol
2-(Trifluoromethyl)-1,4,5,6-tetrahydropyrimidin-5-ol (4.20 g, 25 mmol) was stirred in nitrobenzene at 90° C. Sodium methoxide (5.4 g, 100 mmol) was dissolved in methanol (75 ml) and added portionwise to the reaction mixture, allowing the methanol to distill off before the next addition. The reaction mixture was then warmed to 121° C. for one hour, cooled, shaken with water (150 ml), the organic phase separated off and the aqueous phase washed with ethyl acetate (2×100 ml). The aqueous phase was adjusted to pH 4.0 with 6M aqueous hydrochloric acid, extracted with ethyl acetate (2×100 ml), dried and evaporated to give 2.53 g (61.7%) of an orange coloured product that was used without further purification.

reactant | 2-(Trifluoromethyl)-1,4,5,6-tetrahydropyrimidin-5-ol | 25 mmol, 4.20 g | FC(C=1NCC(CN1)O)(F)F | C5H7F3N2O
reactant | Sodium methoxide | 100 mmol, 5.4 g | C[O-].[Na+]
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methanol | 75 ml | CO | CH4O
product | 2-(Trifluoromethyl)pyrimidin-5-ol | 2.53 g, 61.7% | FC(C1=NC=C(C=N1)O)(F)F | C5H3F3N2O
